US05302720
A mixture of 2-biphenylylcyanamide (4 g), 3-hydroxypiperidine (2.5 g) and ethanol (30 ml) was heated at 90°-95° C. for 8 hours to give a brown solid which was purified by chromatography on an aluminia column eluted successively with hexane, 1:4, 2:3, 3:2 and 4:1 mixtures of dichloromethane and hexane and then a 99:1 mixture of dichloromethane and methanol to yield a solid which was recrystallised from ethyl acetate to give N-(2-biphenylyl)-3-hydroxypiperidine-1-carboxamidine (m.p. 144°-145° C.).

reactant | 2-biphenylylcyanamide | 4 g | C1(=C(C=CC=C1)NC#N)C1=CC=CC=C1 | C13H10N2
reactant | 3-hydroxypiperidine | 2.5 g | OC1CNCCC1 | C5H11NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-(2-biphenylyl)-3-hydroxypiperidine-1-carboxamidine | C1(=C(C=CC=C1)NC(=N)N1CC(CCC1)O)C1=CC=CC=C1 | C18H21N3O
